US04714766
In analogy to Example 1, 204 g of 5,7-dichlorobenzoxazolin-2-one, in place of 6-Chlorobenzoxazolin-2-one, are reacted. 2,5,7-Trichlorobenzoxazole of melting point 140° -142° C. is obtained in a yield of 68% of theory by recrystallisation, from toluene or ligroin, of the residue remaining after distilling out the o-dichlorobenzene.

reactant | 5,7-dichlorobenzoxazolin-2-one | 204 g | ClC=1C=C(C2=C(NC(O2)=O)C1)Cl | C7H3Cl2NO2
reactant | 6-Chlorobenzoxazolin-2-one | ClC1=CC2=C(NC(O2)=O)C=C1 | C7H4ClNO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,5,7-Trichlorobenzoxazole | yield of 68% | ClC=1OC2=C(N1)C=C(C=C2Cl)Cl | C7H2Cl3NO
